US06258812B1
A: 1-(3-Decyloxyanilino)-4-(4-pyridylmethyl)phthalazine
To 262 mg (1.05 mmol) decyloxyaniline (Salor) in 5 ml ethanol, 0.26 ml HCl/dioxane 4N is added, the mixture stirred for ≈3 min, and then 256 mg (1.00 mmol) 1-chloro-4-(4-pyridylmethyl)phthalazine (Example 67A.1) is added. After 2 h boiling under reflux, the mixture is cooled and concentrated by evaporation. The residue is stirred with 6 ml NH3 solution (10% in water: or 10 ml sat. NaHCO3 solution) and 15 ml dichloromethane/methanol SO: 1 for 30 min. The aqueous phase is then separated off and extracted again with dichloromethane. The organic phase is dried (Na2SO4) and concentrated by evaporation. Crystallization [possibly after chromatography on SiO2 (ethyl acetate/CH3OH 19:1)] from acetonitrile (or methanol) yields the title compound: m.p.: 116-119° C.; Anal. calc. (C30H36N4O) C 76.89%, H 7.74%, N 11.96%; found C 76.7%, H 7.7%, N 11.9%; FAB MS (M+H)+=469.

reactant | decyloxyaniline | 1.05 mmol, 262 mg | C(CCCCCCCCC)ONC1=CC=CC=C1 | C16H27NO
reactant | 1-chloro-4-(4-pyridylmethyl)phthalazine | 1.00 mmol, 256 mg | ClC1=NN=C(C2=CC=CC=C12)CC1=CC=NC=C1 | C14H10ClN3
reactant | HCl dioxane | 4N, 0.26 ml | Cl.O1CCOCC1
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-(3-Decyloxyanilino)-4-(4-pyridylmethyl)phthalazine | C(CCCCCCCCC)OC=1C=C(NC2=NN=C(C3=CC=CC=C23)CC2=CC=NC=C2)C=CC1 | C30H36N4O
